US04057530
While stirring and under nitrogen, a mixture of 3.14 g (0.15 mol) of 2-(4'-hydroxy-phenyl)-indole, prepared as in Example 2, 2.1 g of anhydrous potassium carbonate and 100 ml of anhydrous acetone was refluxed and a solution of 50 ml of anhydrous acetone containing 1.8 ml (0.015 mol) of benzyl bromide was then added, drop-by-drop. The solution was heated for 4 hours and 0.4 ml (0.003 mole) of benzyl bromide was added with 0.5 g of potassium carbonate. Heating was continued for 4 hours and the hot solution was filtered. The filter was washed with 50 ml of acetone, the filtrate was concentrated under vacuum and was taken up in 100 ml of boiling methylethylketone. The hot reaction medium was filtered and the filtrate was cooled in an ice-bath for 30 minutes. The precipitate which was obtained was centrifuged and recrystallized from methylethylketone to give 3.3 g of 2-(4'-benzyloxy-phenyl)-indole.

reactant | 2-(4'-hydroxy-phenyl)-indole | 0.15 mol, 3.14 g | OC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C14H11NO
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 0.003 mole, 0.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 0.015 mol, 50 ml | CC(=O)C | C3H6O
product | 2-(4'-benzyloxy-phenyl)-indole | 3.3 g, Yield: 73.5% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C21H17NO
